US07030118B2
B) (±)-N-(3-Amino-propyl)-N-(3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-ylmethyl)-4-chloro-benzamide, hydrochloride salt
To a solution of (±)-{3-[(3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester (12 mg, 0.027 mmole) in methylene chloride (0.5 mL) at 0° C. was added Et3N (11 μL, 0.081 mmole) followed by 4-chlorobenzoyl chloride (10 mL, 0.081 mmol). After stirring at 0° C. for 1.5 h, the reaction was quenched with 10 mL of saturated NaHCO3 solution and extracted with EtOAc (3×20 mL). The pooled organic extracts were dried over anhydrous MgSO4 and concentrated in vacuo. Purification of the residue by flash column chromatography (SiO2, 2% MeOH/CHCl3) gave a residue which was immediately treated with 4 N HCl in dioxane (1 mL). The crude product was lyophilized with acetonitrile/water to give the title compound as a white powder (7.2 mg, 51%): MS (ESI+) 484 (M++H).

reactant | (±)-{3-[(3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-ylmethyl)-amino]-propyl}-carbamic acid tert-butyl ester | 0.027 mmole, 12 mg | C(C)(C)(C)OC(NCCCNCC1=NN2C(C(N1CC1=CC=CC=C1)=O)=C(C=C2)Cl)=O | C22H28ClN5O3
reactant | Et3N | 0.081 mmole, 11 μL | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.081 mmol, 10 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | HCl | 4 N | Cl | ClH
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile water | C(C)#N.O
product | (±)-N-(3-Amino-propyl)-N-(3-benzyl-5-chloro-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-ylmethyl)-4-chloro-benzamide, hydrochloride salt | 7.2 mg, 51% | Cl.NCCCN(C(C1=CC=C(C=C1)Cl)=O)CC1=NN2C(C(N1CC1=CC=CC=C1)=O)=C(C=C2)Cl | InChI=1S/C24H23Cl2N5O2.ClH/c25-19-9-7-18(8-10-19)23(32)29(13-4-12-27)16-21-28-31-14-11-20(26)22(31)24(33)30(21)15-17-5-2-1-3-6-17;/h1-3,5-11,14H,4,12-13,15-16,27H2;1H
